US07868008B2
7-Chloro-N-hydroxy-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxamidine
To a suspension of 7-chloro-1-oxo-2-[4-(trifluoromethoxy)benzyl]isoindoline-5-carbonitrile (500 mg, 1.36 mmol) in ethanol (2 ml), 8-hydroxyquinoline (495 mg, 3.41 mmol) was added, followed by a solution of hydroxylamine hydrochloride (199 mg, 2.86 mmol) in water (1 ml) and a solution of sodium carbonate (230 mg, 2.2 mmol) in water (1 ml). The resulting mixture was refluxed for 4 hours. After removal of solvents, the residue was loaded to a flash chromatography. The product was purified (20% EtOAc/hexanes to 2% ammonia in MeOH/EtOAc) and obtained a 500 mg of greenish foam (90%). 1H NMR (300 MHz, CDCl3): δ 10.04 (s, 1H) 7.48-7.61 (m, 2H), 7.28-7.36 (m, 2H), 7.17-7.21 (m, 2H), 6.04 (br, 1H), 4.77 (s, 2H), 4.22 (s, 2H).

reactant | 7-chloro-1-oxo-2-[4-(trifluoromethoxy)benzyl]isoindoline-5-carbonitrile | 1.36 mmol, 500 mg | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C17H10ClF3N2O2
reactant | 8-hydroxyquinoline | 3.41 mmol, 495 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | hydroxylamine hydrochloride | 2.86 mmol, 199 mg | Cl.NO
reactant | sodium carbonate | 2.2 mmol, 230 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 7-Chloro-N-hydroxy-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxamidine | 500 mg, 90% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C(=N)NO | C17H13ClF3N3O3
